US07863271B2
To a solution of tert-butyl 2-methylpiperazine-1-carboxylate (340 mg, 1.70 mmol) in THF (5 mL) was added sodium hydride (60%, 82 mg, 2.04 mmol). The reaction mixture was stirred at room temperature for 5 min, then methyl 2-chlorobenzoxazole-4-carboxylate (300 mg, 1.41 mmol) in THF (5 mL) was added to the reaction mixture. The reaction mixture was stirred at room temperature for 19 h. The mixture was concentrated under reduced pressure and the resulting residue was purified by column chromatography (silica gel, 20% EtOAc in hexane) to afford methyl 2-(4-(tert-butoxycarbonyl)-3-methylpiperazin-1-yl)benzoxazole-4-carboxylate (336 mg, 63%) as yellow solid. MS consistent.

reactant | tert-butyl 2-methylpiperazine-1-carboxylate | 1.70 mmol, 340 mg | CC1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium hydride | 2.04 mmol, 82 mg | [H-].[Na+]
reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 1.41 mmol, 300 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-(tert-butoxycarbonyl)-3-methylpiperazin-1-yl)benzoxazole-4-carboxylate | 336 mg, 63% | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC)C | C19H25N3O5
